US08212045B2
To 1-(5-bromo-3-(4-fluorophenoxy)pyridin-2-yl)thiourea (0.5 g, 1.5 mmol) in ethanol (50 mL) was added (S)-2-chloro-1-(2,2-dimethyl-1,3-dioxolane-4-yl)ethanone (0.34 g, 1.9 mmol) and the reaction stirred at 80° C. for 1 hr. The reaction was poured into water (250 mL) and the filtered. The solid was triturated with ethyl acetate and methanol. The solid was suspended in ethyl acetate (500 mL) and washed with 1 N NaOH (500 mL). The organics were concentrated and the crude material was purified by chromatography using 3 to 10% MeOH/CH2Cl2 as eluent to give (R)-1-(2-(5-bromo-3-(4-fluorophenoxy)pyridin-2-ylamino)thiazol-4-yl)ethane-1,2-diol (0.043 g, 0.10 mmol, 7%) (APCI POS 426, 428 M+H).

reactant | 1-(5-bromo-3-(4-fluorophenoxy)pyridin-2-yl)thiourea | 1.5 mmol, 0.5 g | BrC=1C=C(C(=NC1)NC(=S)N)OC1=CC=C(C=C1)F | C12H9BrFN3OS
reactant | (S)-2-chloro-1-(2,2-dimethyl-1,3-dioxolane-4-yl)ethanone | 1.9 mmol, 0.34 g | ClCC(=O)[C@H]1OC(OC1)(C)C | C7H11ClO3
reactant | water | 250 mL | O | H2O
solvent | ethanol | 50 mL | C(C)O | C2H6O
product | (R)-1-(2-(5-bromo-3-(4-fluorophenoxy)pyridin-2-ylamino)thiazol-4-yl)ethane-1,2-diol | 0.10 mmol, 428 M, 0.043 g, 7% | BrC=1C=C(C(=NC1)NC=1SC=C(N1)[C@H](CO)O)OC1=CC=C(C=C1)F | C16H13BrFN3O3S
